US05227279
A sodium salt of N-phenylglycine of 50 g (0.29 mol) was dissolved in water of 50 g and methanol of 50 g and then hydroquinone of 18 mg were added to the resulting solution. This solution was heated up to temperatures of 45° to 50° C. and glycidyl methacrylate of 41 g (0.29 mol) was added dropwise for 20 minutes with stirring followed by stirring for further 2 hours. Water of 200 g was added to the resulting solution and acidified with hydrochloric acid followed by filtering and drying the resulting crystals. N-(2-hydroxy-3-methacryloxypropyl)-N-phenylglycine (hereinafter called GMA-NPG for short) of 45 g was obtained. Then GMA-NPG of 2.0 g, MMA (methyl methacrylate) of 14.0 g, EA (ethyl acrylate) of 2.4 g and MAA (methacrylic acid) of 1.6 g were dissolved in dimethylformamide of 80 g. 20 g of a 1 wt %-solution of benzoyl peroxide in dimethylformamide was added dropwise to the above described solution under an atmosphere of nitrogen at 70° C. followed by stirring for further 6 hours. After cooling, hexane of about 10 times in weight was added to dilute the solution, the resulting polymer being settled and collected, the collected polymer being dissolved in methalethylketone and settled again in hexane, and the settled material being fltered and dried in a vacuum. A white powdery polymer was obtained. The number mean molecular weight of the obtained polymer was 25,000 and its acid value was 75. In addition, it was confirmed from the existence of an absorption having a peak at 300 nm in the UV absorption spectrum of this polymer that GMA was copolymerized with NPG.

reactant | sodium | [Na] | Na
reactant | N-phenylglycine | C1(=CC=CC=C1)NCC(=O)O | C8H9NO2
reactant | hydroquinone | C1(O)=CC=C(O)C=C1 | C6H6O2
reactant | glycidyl methacrylate | C(C(=C)C)(=O)OCC1CO1 | C7H10O3
reactant | hydrochloric acid | Cl | ClH
solvent | water | O | H2O
solvent | methanol | CO | CH4O
product | N-(2-hydroxy-3-methacryloxypropyl)-N-phenylglycine | OC(CN(CC(=O)O)C1=CC=CC=C1)COC(C(=C)C)=O | C15H19NO5
